US08703810B2
To a solution of 5-bromo-2,3-difluorophenol (19 g, 90 mmol) in acetone (180 mL), K2CO3 (18 g, 0.13 mol) and iodomethane (25.8 g, 0.18 mol) were added. The resulting mixture was refluxed for 4 h. Upon completion, the mixture was cooled to room temperature and filtered, and the filtrate was evaporated to give the crude product, which was further purified by column chromatography on silica gel (eluting with petroleum ether/ethyl acetate=80/1˜40/1) to give a light yellow liquid 5-bromo-1,2-difluoro-3-methoxybenzene (19 g). 1H NMR (CDCl3): δ 7.00-6.88 (m, 2H), 3.89 (s, 3H).

reactant | 5-bromo-2,3-difluorophenol | 90 mmol, 19 g | BrC=1C=C(C(=C(C1)O)F)F | C6H3BrF2O
reactant | K2CO3 | 0.13 mol, 18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.18 mol, 25.8 g | IC | CH3I
solvent | acetone | 180 mL | CC(=O)C | C3H6O
product | 5-bromo-1,2-difluoro-3-methoxybenzene | 19 g | BrC=1C=C(C(=C(C1)F)F)OC | C7H5BrF2O
